US04604388
2-(2-Chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f][1,4]-oxazepine-5(4H)-thione hydrate [1:1]
To a suspension of 17.4 g (0.043 mole) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diposphetane-2,4-disulfide in ~300 ml of toluene was added 20 g (0.078 mole) of 2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one hydrate [1:1]. The mixture was heated to reflux for 3 hr and 4.0 g (0.01 mole) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide was added and heating was continued for 1 hr. After cooling, toluene was decanted off and washed with 3×100 ml 1N sodium hydroxide and 100 ml water. The organic layer was then extracted with 2×100 ml of 2N hydrochloric acid. The aqueous layer was made just basic to litmus with conc. sodium hydroxide causing the product to precipitate out. Of the 25 g of crude collected, 2 g were recrystallized from diisopropyl ether to give pale yellow crystals, m.p. 80°-86° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one hydrate | 0.078 mole, 20 g | O.ClCCC1OC2=C(C(N(C1)C)=O)C=CC(=N2)C
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.01 mole, 4.0 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | ~300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f][1,4]-oxazepine-5(4H)-thione hydrate | O.ClCCC1OC2=C(C(N(C1)C)=S)C=CC(=N2)C | InChI=1S/C12H15ClN2OS.H2O/c1-8-3-4-10-11(14-8)16-9(5-6-13)7-15(2)12(10)17;/h3-4,9H,5-7H2,1-2H3;1H2
